US07393868B2
Propane-2-sulfonic acid [2-(4-bromo-phenyl)-2H-pyrazol-3-yl]-amide
Dissolve 1-(4-Bromo-phenyl)-5-(propane-2-sulfonylamino)-1H-pyrazole-4-carboxylic acid (1.952 g, 5.03 mmol) in quinoline (2.79 mL) in a sealed tube. Add copper (0.16 g, 2.51 mmol) and immerse into a pre-heated (180° C.) oil bath and stir for 15 min. Cool to room temperature and remove the solvent under reduced pressure. Dilute with dichloromethane, wash with 1.0M HCl (2×50 mL), dry over sodium sulfate, filter, and concentrate to yield a residue. Subject to silica gel flash column chromatography (15-55% EtOAc/n-hexane) to yield the title compound (1.323 g, 76%).

reactant | 1-(4-Bromo-phenyl)-5-(propane-2-sulfonylamino)-1H-pyrazole-4-carboxylic acid | 5.03 mmol, 1.952 g | BrC1=CC=C(C=C1)N1N=CC(=C1NS(=O)(=O)C(C)C)C(=O)O | C13H14BrN3O4S
reactant | EtOAc n-hexane | CCOC(=O)C.CCCCCC
solvent | quinoline | 2.79 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 2.51 mmol, 0.16 g | [Cu] | Cu
product | Propane-2-sulfonic acid [2-(4-bromo-phenyl)-2H-pyrazol-3-yl]-amide | 1.323 g, 76% | BrC1=CC=C(C=C1)N1N=CC=C1NS(=O)(=O)C(C)C | C12H14BrN3O2S
